US07994317B2
b) Preparation of 3-(4-(methylamino)-6-(4-methylpiperazin-1-yl)-1,3,5-triazin-2-ylamino)-N-(2-(trifluoromethyl)benzyl)cyclohexanecarboxamide
The solution of 4-chloro-N-methyl-6-(4-methylpiperazin-1-yl)-1,3,5-triazin-2-amine (30.0 mg, 0.084 mmol, 1 equivalent) and 3-amino-N-(2-(trifluoromethyl)benzyl) cyclohexanecarboxamide as TFA salt (103 mg, 0.248 mmol, 2.95 equivalents) in CH3CN/H2O (1/1, 2 ml) was adjusted to pH 9-10 with 1N NaOH. The resulting solution was heated at 80° C. for 16 hours. The solvent was removed under vacuo to give the crude product, which was purified with RP-HPLC (Luna 5μ, C8(2), 100×21 mm, 10-50% CH3CN/H2O, 0.1% TFA, 25 min) to give the final compound (0.94 mg, 1.8%). MS (ES+): m/e 507.17 [M+H]+.

reactant | 4-chloro-N-methyl-6-(4-methylpiperazin-1-yl)-1,3,5-triazin-2-amine | 0.084 mmol, 30.0 mg, 1 equivalent | ClC1=NC(=NC(=N1)N1CCN(CC1)C)NC | C9H15ClN6
reactant | 3-amino-N-(2-(trifluoromethyl)benzyl) cyclohexanecarboxamide | NC1CC(CCC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C15H19F3N2O
reactant | TFA | 0.248 mmol, 103 mg, 2.95 equivalents | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | CH3CN H2O | 2 ml | CC#N.O
product | 3-(4-(methylamino)-6-(4-methylpiperazin-1-yl)-1,3,5-triazin-2-ylamino)-N-(2-(trifluoromethyl)benzyl)cyclohexanecarboxamide | 0.94 mg, 1.8% | CNC1=NC(=NC(=N1)N1CCN(CC1)C)NC1CC(CCC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C24H33F3N8O
